US07622583B2
A mixture of 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carbonyl chloride (100 mg, 0.2 mmol), 3-isopropylamino-pyrazole-1-carboxylic acid tert-butyl ester (54 mg, 0.24 mmol), TEA (0.88 mL) in THF was stirred at RT for 2 hours and then purified by flash column to give 3-({5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carbonyl}-isopropyl-amino)-pyrazole-1-carboxylic acid tert-butyl ester.

reactant | 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carbonyl chloride | 0.2 mmol, 100 mg | ClC=1C=C(C(=NC1)C(=O)Cl)N(COC)S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C15H10Cl3F3N2O4S
reactant | 3-isopropylamino-pyrazole-1-carboxylic acid tert-butyl ester | 0.24 mmol, 54 mg | C(C)(C)(C)OC(=O)N1N=C(C=C1)NC(C)C | C11H19N3O2
solvent | THF | C1CCOC1 | C4H8O
product | 3-({5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carbonyl}-isopropyl-amino)-pyrazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=C(C=C1)N(C(C)C)C(=O)C1=NC=C(C=C1N(COC)S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl | C26H28Cl2F3N5O6S
